US07947715B2
Step 6: Preparation of 3-(4-aminomethyl-3-chlorophenyl)-5-(3,5-dibromo-4-fluorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole
N-[[2-chloro-4-[5-(3,5-dibromo-4-fluorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]phenyl]methyl]phthalimide (0.75 g) in ethanol (10 mL) was added hydrazine monohydrate (1.07 g). The mixture was heated to reflux for 1 hour and then cooled to room temperature. The resulting mixture was filtered and concentrated under reduced pressure. The residue was dissolved in chloroform (10 mL) and filtered, and the filtrate was washed with water (10 mL) and brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to provide a residue. The residue was purified by column chromatography on silica gel eluted with methanol-ethyl:acetate (1:9) to afford the title compound as a pale yellow resin (0.51 g).

reactant | N-[[2-chloro-4-[5-(3,5-dibromo-4-fluorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]phenyl]methyl]phthalimide | 0.75 g | ClC1=C(C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Br)F)Br)CN1C(C=2C(C1=O)=CC=CC2)=O | C25H13Br2ClF4N2O3
reactant | hydrazine monohydrate | 1.07 g | O.NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-(4-aminomethyl-3-chlorophenyl)-5-(3,5-dibromo-4-fluorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | NCC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Br)F)Br)Cl | C17H11Br2ClF4N2O
